US07105547B2
Preparation of N-{3-[3,5-difluoro-4-(4-oxo-3,4-dihydro-2H-pyridin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-2,2-difluoro-thioacetamide
The title compound compound is prepared from {3-[3,5-difluoro-4-(4-oxo-3,4-dihydro-2H-pyridin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-carbamic acid tert-butyl ester (250 mg, 0.59 mmol) and difluorothioacetic acid-O-(3,3-diphenyl-propyl) ester (420 mg, 1.25 mmol) following the method described for Example 10. The crude product is purified by silica gel column chromatography (gradient 50 to 100% EtOAc in hexanes). MS (m/z): 418 [M+1]+. 1H NMR (300 MHz, CDCl3) δ11.13 (br. s, 1H), 7.46–7.38 (m, 3H), 6.49 (t, J=55.2 Hz, 1H), 5.07–4.98 (m, 2H), 4.19 (t, J=9.1 Hz), 1H), 4.02–3.76 (m, 5H).

reactant | {3-[3,5-difluoro-4-(4-oxo-3,4-dihydro-2H-pyridin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-carbamic acid tert-butyl ester | 0.59 mmol, 250 mg | C(C)(C)(C)OC(NCC1CN(C(O1)=O)C1=CC(=C(C(=C1)F)N1CCC(C=C1)=O)F)=O | C20H23F2N3O5
reactant | difluorothioacetic acid-O-(3,3-diphenyl-propyl) ester | 1.25 mmol, 420 mg | C1(=CC=CC=C1)C(CCOC(C(F)F)=S)C1=CC=CC=C1 | C17H16F2OS
product | N-{3-[3,5-difluoro-4-(4-oxo-3,4-dihydro-2H-pyridin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-2,2-difluoro-thioacetamide | FC=1C=C(C=C(C1N1CCC(C=C1)=O)F)N1C(OC(C1)CNC(C(F)F)=S)=O | C17H15F4N3O3S
